US04038299
5-Oxo-5H-dibenzo[a,d]cycloheptene-2-carboxylic acid is prepared by esterifying 2-methylterephthalic acid with methanol, in the presence of acid catalyst, to afford the corresponding dimethyl ester which, in turn, is reacted with N-bromosuccinimide to afford 2-bromomethylterephthalic acid dimethyl ester. This diester is reacted with triphenylphosphine to afford 2,5-bis(carbomethoxy)benzyltriphenyl phosphonium bromide which is treated with benzaldehyde and a non-nucleophilic base, such as diazabicylononene, to afford, after alkaline hydrolysis, cis and trans stilbene 2,5-dicarboxylic acid. Hydrogenation of this latter compound with hydrogen over a 5% palladium on carbon catalyst affords 2-(2-phenethyl)terephthalic acid. Treatment with polyphosphoric acid yields 5-oxo-5H-dibenzo[a,d]cycloheptane-2-carboxylic acid which can be recystallized from aqueous dimethylformamide. 5-oxo-5H-dibenzo[a,d]cycloheptene-2-carboxylic acid is prepared by successively treating 5-oxo-5H-dibenzo[a,d]cycloheptane-2-carboxylic acid with diazomethane, N-bromosuccinimide, and dimethylformamide/diazabicyclononene, followed by base hydrolysis and acidification.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dimethylformamide diazabicyclononene | CN(C=O)C.C1(=NNCCCCCC1)C1=CCCCCCCC1
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-oxo-5H-dibenzo[a,d]cycloheptene-2-carboxylic acid | O=C1C2=C(C=CC3=C1C=CC(=C3)C(=O)O)C=CC=C2 | C16H10O3
